US07973012B2
(1) Preparation of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-[4-[(1E)-3-[[(2-hydroxy-1,1-dimethylethyl)aminocarbonyl]amino]prop-1-en-1-yl]benzyl]-2-(benzyloxy)-4-methylphenyl)-D-glucitol
To an acetonitrile solution (5.4 mL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-bromobenzyl)-4-methylphenyl]-D-glucitol (0.48 g, 0.539 mmol) were added N-allyl-N′-(2-hydroxy-1,1-dimethylethyl)urea (223 mg, 1.29 mmol), palladium(II) acetate (24 mg, 0.108 mmol), tri-O-tolylphosphine (66 mg, 0.216 mmol) and triethylamine (273 mg, 2.69 mmol), and the mixture was stirred at 120° C. for 20 minutes with microwave manufactured by Biotage. The reaction solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (chloroform and then chloroform:methanol=50:1) to obtain the title compound (210 mg, 40%) as a pale yellow amorphous compound.

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-bromobenzyl)-4-methylphenyl]-D-glucitol | 0.539 mmol, 0.48 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)Br)C)OCC1=CC=CC=C1 | C55H53BrO6
reactant | N-allyl-N′-(2-hydroxy-1,1-dimethylethyl)urea | 1.29 mmol, 223 mg | C(C=C)NC(=O)NC(CO)(C)C | C8H16N2O2
reactant | tri-O-tolylphosphine | 0.216 mmol, 66 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | triethylamine | 2.69 mmol, 273 mg | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.108 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 5.4 mL | C(C)#N | C2H3N
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-[4-[(1E)-3-[[(2-hydroxy-1,1-dimethylethyl)aminocarbonyl]amino]prop-1-en-1-yl]benzyl]-2-(benzyloxy)-4-methylphenyl)-D-glucitol | 210 mg, 40% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)\C=C\CNC(=O)NC(CO)(C)C)C)OCC1=CC=CC=C1 | C63H68N2O8
